US04546104
a. (3E)-3-Octen-2-one (Formula VII, R6 =butyl, R7 =H)
A solution of 7.73 g (58 mM) of anhydrous LiI and 1.47 ml (20 mM) of acetone in 35 ml of diethyl ether was heated to gentle reflux. To this solution was added dropwise a solution of 1.59 ml (15.0 mM) 1-pentanal in 5 ml diethyl ether over 10 minutes. The solution was then heated at reflux for 6 hours. After the solution was cooled to ambient temperature water was added and the layers separated. The ether phase was washed once with brine and dried over anhydrous MgSO4. The diethyl ether was removed by distillation at atmospheric pressure followed by distillation of the residue. There was obtained 0.52 g (27%) of a highly mobile colorless liquid. 1H NMR (CDCl3):6.80δ (dt,1H,JHH =7Hz, 16Hz), 6.01δ (d,1H,JHH =16Hz), 2.20δ (s,3H).

reactant | LiI | 58 mM, 7.73 g | [Li+].[I-]
reactant | acetone | 20 mM, 1.47 ml | CC(=O)C | C3H6O
reactant | 1-pentanal | 15.0 mM, 1.59 ml | C(CCCC)=O | C5H10O
reactant | water | O | H2O
solvent | diethyl ether | 35 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | (3E)-3-Octen-2-one | CC(\C=C\CCCC)=O | C8H14O
